US05192758
Preparation of 3,5-Dibromobenzonitrile
To a stirred solution of t-butylnitrite (53.5 μL, 0.449 mmoles) in 1 ml sieve dried dimethylformamide at 50° C. under an atmosphere of nitrogen was added a solution of 4-amino-3,5-dibromobenzonitrile (50 mg, 0.179 mmoles) in 1 mL of DMF. The mixture was stirred at 50° C. for 0.5 hour and partitioned between diethyl ether, ice-water, and ammonium chloride. The organic phase was separated, washed with water and brine, dried over anhydrous sodium, filtered, and evaporated.

reactant | t-butylnitrite | 0.449 mmoles, 53.5 μL | C(C)(C)(C)ON=O | C4H9NO2
reactant | 4-amino-3,5-dibromobenzonitrile | 0.179 mmoles, 50 mg | NC1=C(C=C(C#N)C=C1Br)Br | C7H4Br2N2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3,5-Dibromobenzonitrile | BrC=1C=C(C#N)C=C(C1)Br | C7H3Br2N
